US05348727
The bis-mesylate of PEG-400 (15.3 g, 27.5 mmol) in dry DMF (110 ml) was reacted with 4-iodophenol (12.1 g, 55.0 mmol) and potassium carbonate (7.6 g, 55.0 mmol) at 77° C. under an atmosphere of N2. After stirring for 16 hrs, the reaction was allowed to cool, diluted with DMF, filtered through a pad of celite and evaporated in vacuo. The resulting residue was taken up with EtOAc (500 ml), washed with 1 M aqueous sodium hydroxide (200 ml), water (200 ml) and brine (200 ml), dried (Na2SO4), filtered, and evaporated in vacuo to provide a light brown syrup. Flash column chromatography (silica, 1% - 5%; CH3OH in CH2Cl2) provided bis-(4-iodophenyl) ether of polyethylene glycol-400 which was slightly contaminated with unreacted mesylates. The product was further purified by dissolving 10.5 g in DMF (100 ml). Sodium methoxide (400 mg) was added. The reaction flask was immersed in an oil bath and warmed to 93° C. After stirring for 16 hrs, the reaction was allowed to cool, diluted with EtOAc (500 ml), washed with water (200 ml) and brine (200 ml) repeatedly (3 times), dried (Na2SO4), filtered and evaporated in vacuo to provide a light yellow syrup. Flash column chromatography (silica, 5% CH3OH in CH2Cl2) provided bis-(4-iodophenyl) ether of polyethylene glycol-400 as a light yellow syrup (8.3 g). 1H NMR (300 MHz) analysis of the product indicates that the average number of ethylene oxide units is eight (n=8). Title Compound: 1H (300 MHz) and 13C (75 MHz) NMR spectra were consistent with the desired product.

reactant | 4-iodophenol | 55.0 mmol, 12.1 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 55.0 mmol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH3OH | CO | CH4O
solvent | DMF | 110 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | bis-(4-iodophenyl) ether | IC1=CC=C(C=C1)OC1=CC=C(C=C1)I | C12H8I2O
